### PR TITLE
Full message dependencies

### PR DESCRIPTION
**Pull request by traiansf**
This PR makes the following changes:
- expands the results about message dependencies, defining a dependency relation, its transitive closure (the happens-before relation), and several properties about them
- Defines the FullMessageDependencies class corresponding to VLSMs which can compute the set encompassing all happens-before dependencies of a given message
- Studies the relation between a sub-composition (the projection of a composition to a subset of nodes) and one of its components
- Makes various improvements to existing results concerning equivocation.

### CODE REVIEW

File: theories/VLSM/Core/VLSMProjections.v [hunk 1]
```diff
@@ -2707,12 +2718,37 @@ Context
...
+  : VLSM_incl (pre_loaded_vlsm X P) (pre_loaded_vlsm X Q).
+Proof.
+  apply basic_VLSM_incl.
+  - cbv; intuition.
+  - intros _ _ m _ _ [Him | Hp].
+    + apply initial_message_is_valid. left. assumption.
+    + apply PimpliesQorValid in Hp as [Hq | Hvalid]; [|assumption].
+      apply initial_message_is_valid. right. assumption.
+  - cbv; intuition.
+  - cbv; intuition.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:2733]:
```suggestion
  apply basic_VLSM_incl.
  1, 3-4: cbv; intuition.
  intros _ _ m _ _ [Him | Hp].
  - apply initial_message_is_valid. left. assumption.
  - apply PimpliesQorValid in Hp as [Hq | Hvalid]; [|assumption].
    apply initial_message_is_valid. right. assumption.
```

File: theories/VLSM/Core/VLSM.v [hunk 2]
```diff
@@ -1363,6 +1363,24 @@ traces.
...
+      cut (exists l1 l2, tr = l1 ++ item :: l2).
+      {
+        intros [l1 [l2 Heq]].
+        eexists _,_.
+        eapply input_valid_transition_to with (tr := tr); [eassumption|].
+        simpl.
+        eassumption.
+      }
+      apply elem_of_list_split.
+      assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:1381]: I think this is one case where a forward proof does better than a backward one :)

```suggestion
      intros item Hitem.
      apply elem_of_list_split in Hitem as (l1 & l2 & Heq).
      eexists _,_.
      eapply input_valid_transition_to; [eassumption|].
      simpl. eassumption.
```

File: theories/VLSM/Core/VLSM.v [hunk 3]
```diff
@@ -2173,6 +2188,42 @@ This relation is often used in stating safety and liveness properties.*)
...
+      intros Hitem.
+      apply in_split in Hitem as [pre [suf Heqtr]].
+      exists suf.
+      replace (destination item) with (finite_trace_last is (pre ++ [item]))
+        by apply finite_trace_last_is_last.
+      eapply finite_valid_trace_from_to_app_split.
+      rewrite <- app_assoc.
+      simpl.
+      rewrite <- Heqtr.
+      assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2206]: No need to convert `elem_of` to `In` before splitting. There's `elem_of_list_split`.

```suggestion
      intros item Hitem.
      apply elem_of_list_split in Hitem as (pre & suf & Heqtr).
      exists suf.
      replace (destination item)
         with (finite_trace_last is (pre ++ [item]))
           by apply finite_trace_last_is_last.
      eapply finite_valid_trace_from_to_app_split.
      rewrite <- app_assoc. simpl. rewrite <- Heqtr.
      assumption.
```

File: theories/VLSM/Core/VLSM.v [hunk 4]
```diff
@@ -2173,6 +2188,42 @@ This relation is often used in stating safety and liveness properties.*)
...
+      intros Hitem.
+      apply in_split in Hitem as [pre [suf Heqtr]].
+      exists (pre ++ [item]).
+      replace (destination item) with (finite_trace_last is (pre ++ [item]))
+        by apply finite_trace_last_is_last.
+      eapply finite_valid_trace_from_to_app_split.
+      rewrite <- app_assoc.
+      simpl.
+      rewrite <- Heqtr.
+      eassumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2224]: Again.

```suggestion
      intros item Hitem.
      apply elem_of_list_split in Hitem as (pre & suf & Heqtr).
      exists (pre ++ [item]).
      replace (destination item)
         with (finite_trace_last is (pre ++ [item]))
           by apply finite_trace_last_is_last.
      eapply finite_valid_trace_from_to_app_split.
      rewrite <- app_assoc. simpl. rewrite <- Heqtr.
      eassumption.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 5]
```diff
@@ -456,16 +497,23 @@ Proof.
     apply Hfinite.
 Qed.
 
+Program Definition sub_index_list_annotate : list sub_index :=
+  list_annotate _ sub_index_list _.
+Next Obligation.
+  apply Forall_forall.
+  intuition.
+Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:505]: I would try to avoid `Program` as much as possible.

```suggestion
Program Definition sub_index_list_annotate : list sub_index :=
  list_annotate sub_index_prop sub_index_list ltac:(apply Forall_forall; intuition).
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 6]
```diff
@@ -456,16 +497,23 @@ Proof.
...
-  {Hfinite : finite.Finite index}
   : finite.Finite sub_index.
 Proof.
-  exists (select_sub_indices (enum index)).
-  - apply select_sub_indices_nodup. apply Hfinite.
-  - intro sub_x. destruct_dec_sig sub_x x Hx Heqsub_x.
+  exists (remove_dups sub_index_list_annotate).
+  - apply NoDup_remove_dups.
+  - intro sub_x. apply elem_of_remove_dups.
+    apply elem_of_list_annotate.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:513]:
```suggestion
  - intro sub_x.
    apply elem_of_remove_dups, elem_of_list_annotate.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 7]
```diff
@@ -1173,7 +1221,7 @@ Lemma induced_sub_projection_friendliness
 Proof.
   eapply (basic_projection_induces_friendliness (composite_vlsm IM constraint)).
   assumption.
-  Unshelve.
+Unshelve.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1224]: Again, I would try to avoid `Unshelve`.

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 8]
```diff
@@ -1752,6 +1800,250 @@ Qed.
...
+Proof.
+  intros m Hm.
+  eapply VLSM_incl_can_emit.
+  {
+    apply pre_loaded_vlsm_incl_relaxed with (P0 := fun m => Q m \/ P m).
+    intuition.
+  }
+  eapply VLSM_full_projection_can_emit; [|eassumption].
+  apply preloaded_sub_element_full_projection.
+  intuition.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1906]:
```suggestion
  intros m Hm.
  eapply VLSM_incl_can_emit.
  - apply pre_loaded_vlsm_incl_relaxed with (P0 := fun m => Q m \/ P m).
    intuition.
  - eapply VLSM_full_projection_can_emit; [|eassumption].
    apply preloaded_sub_element_full_projection.
    intuition.
```

File: theories/VLSM/Core/MessageDependencies.v [hunk 9]
```diff
@@ -63,4 +66,444 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+(** Membership to the message_dependencies of a message induces a dependency
+relation.
+*)
+Definition msg_dep_rel : relation message :=
+  fun m1 m2 => m1 ∈ message_dependencies m2.
+
+(** The transitive closure of the [msg_dep_rel]ation is a happens-before
+relation.
+*)
+Definition msg_dep_happens_before : relation message := flip (clos_trans _ (flip msg_dep_rel)).
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v:78]: I don't know. I'm using the equivalence between them below; however, I kind of like the naming better; everyone would understand we're talking about transitive closure when I'm using `clos_trans`; however they might start asking questions if they see `clos_trans_1n`

File: theories/VLSM/Core/SubProjectionTraces.v (hunk 5 above)
Comment (traiansf) [reply theories/VLSM/Core/SubProjectionTraces.v:505]: Frankly, I don't see why this would be better.
In my opinion, if we need to use `Program Definition`, then it's better looking to keep the obligations separate.

File: theories/VLSM/Core/MessageDependencies.v [hunk 10]
```diff
@@ -63,4 +66,444 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+    assumption.
+Qed.
+
+Lemma msg_dep_reflects_happens_before_free_validity
+  (no_initial_messages_in_IM : no_initial_messages_in_IM_prop IM)
+  (X := free_composite_vlsm IM)
+  : forall dm m, msg_dep_happens_before message_dependencies dm m ->
+    valid_message_prop X m -> valid_message_prop X dm.
+Proof.
+  apply msg_dep_happens_before_reflect.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v:321]: Apparently the `firstorder` tactic at the end of the proof of `msg_dep_happens_before_reflect` decided to use the hasbeensent and hasbeenreceived capabilities from the context. Clearing them before the induction solved this issue.

File: theories/VLSM/Core/Equivocation.v [hunk 11]
```diff
@@ -1292,6 +1322,36 @@ Proof.
...
+  - intros s Hs. apply Hinit. assumption.
+  - intros l s im s' om Ht msg.
+    apply (Hupdate l s im s' om).
+    revert Ht.
+    apply VLSM_incl_input_valid_transition.
+    apply basic_VLSM_incl_preloaded; cbv; intuition.
+Qed.
+
+Lemma preloaded_HasBeenReceivedCapability
+      [message : Type]
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation.v:1332]: I've seen @bmmoore  using `[ ]` and they generally seem to make usage better, but I don't have a clear opinion on them so I'll defer to the experts

File: theories/VLSM/Core/SubProjectionTraces.v (hunk 7 above)
Comment (traiansf) [reply theories/VLSM/Core/SubProjectionTraces.v]: I tried your suggestion (you can check the results), but I think in this case it might have been better to use Unshelve, as it is a pretty small proof.

File: theories/VLSM/Core/MessageDependencies.v (hunk 9 above)
[the remark this answers is not in the document]
Comment (wkolowski) [reply theories/VLSM/Core/MessageDependencies.v:78]: Well, I would use whichever definition gives the shortest proofs and tell people that `clos_trans_1n` is transitive closure defined in a particular formal-proof-friendly way. If they are reading it in Alectryon/coqdoc documentation/interactively, they can just see the definition for themselves.

Anecdotally, people like me start asking questions when they see `trans_clos`, as definitions of this kind have given them their fair amount of headache over the years.

File: theories/VLSM/Core/Equivocation.v (hunk 11 above)
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/Equivocation.v:1332]: The difference between `{ }` and `[ ]` is the former is *maximally* implicitly inserted, while the latter is non-maximally implicitly inserted. 

The difference to a user is often not all that noticeable, so I think we should try to be consistent across files. That is, since, we mostly use `{ }` elsewhere. @bmmoore or do you have some other rule of thumb here?

File: theories/VLSM/Core/Equivocation.v [hunk 12]
```diff
@@ -1583,6 +1643,43 @@ Proof.
...
+    valid_message_prop X m.
+Proof.
+  induction Hs using valid_state_prop_ind.
+  - contradict Hreceived. apply (oracle_no_inits (has_been_received_stepwise_from_trace Hhbr));assumption.
+  - apply input_valid_transition_in in Ht as Hom'.
+    apply preloaded_weaken_input_valid_transition in Ht.
+    apply (oracle_step_update (has_been_received_stepwise_from_trace Hhbr) _ _ _ _ _ Ht) in Hreceived.
+    destruct Hreceived.
+    + simpl in H. subst om. assumption.
+    + auto.
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/Equivocation.v:1653]: I personally think it's fine to use `assumption`, it's a well-understood tactic that's not likely to break without proper cause.

On the other hand, `exact Hom'` breaks if we change the not-so-great name `Hom'`, and in my view it's "too specific" to end a proof with...

File: theories/VLSM/Core/Equivocation.v [hunk 13]
```diff
@@ -2121,23 +2264,23 @@ Section Composite.
...
-      - apply vlsm_incl_pre_loaded_with_all_messages_vlsm.
-    }
-    apply valid_trace_input_is_valid with (is0:=is) (tr0:=tr).
-    - apply valid_trace_forget_last in Hpr; apply Hpr.
-    - apply proper_received in Hcomp; [apply (Hcomp is tr Htr)|].
-      apply finite_valid_trace_init_to_last in Htr as Heqs.
-      subst s. apply finite_valid_trace_last_pstate.
-      apply proj1, finite_valid_trace_from_to_forget_last in Htr.
-      assumption.
+    pose (Xhbr := composite_HasBeenReceivedCapability has_been_received_capabilities constraint).
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/Equivocation.v:2256]: Using `pose` is typically fine by me, but maybe one could use `typeclasses eauto` somewhere instead or as a complement? If instance resolution is used, that is.

File: theories/VLSM/Core/MessageDependencies.v [hunk 14]
```diff
@@ -51,9 +55,8 @@ observed all of <<m>>'s dependencies.
 Definition message_dependencies_full_node_condition
   (s : vstate X)
   (m : message)
-  : Prop
-  := forall dm, dm ∈ message_dependencies m ->
-    has_been_observed X s dm.
+  : Prop :=
+  forall dm, dm ∈ message_dependencies m -> has_been_observed X s dm.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:59]: Maybe you should use `Forall` instead of a combination of `forall`, `elem_of` and `->`?

File: theories/VLSM/Core/MessageDependencies.v [hunk 15]
```diff
@@ -63,4 +66,432 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+Proof.
+  intros dm m Hdm.
+  rewrite emitted_messages_are_valid_iff, can_emit_iff.
+  intros [Hinit | [s Hproduce]].
+  - rewrite emitted_messages_are_valid_iff.
+    left; right.
+    apply Hreflects with m; [assumption |].
+    destruct Hinit as [Hinit | Hp]; [| assumption].
+    elim (no_initial_messages_in_X m).
+    assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:134]:
```suggestion
    contradict Hinit. apply no_initial_messages_in_X.
```

File: theories/VLSM/Core/MessageDependencies.v [hunk 16]
```diff
@@ -63,4 +66,432 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+  - apply (observed_valid (pre_loaded_vlsm X P)) with (s := s).
+    + exists (Some m). apply can_produce_valid. assumption.
+    + cut (has_been_observed X s dm).
+      {
+        intros [Hsent | Hreceived]; [left|right]; auto.
+      }
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:140]: As I pointed out previously, I don't like using `cut` like this. Maybe you should factor this into a lemma instead?

File: theories/VLSM/Core/MessageDependencies.v [hunk 17]
```diff
@@ -63,4 +66,432 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+  apply proper_sent in Hsent; [|assumption].
+  apply valid_state_has_trace in Hs as [is [tr Htr]].
+  specialize (Hsent _ _ Htr).
+  apply Exists_exists in Hsent as [item [Hitem Houtput]].
+  exists item.
+  split; cycle 1.
+  - eapply elem_of_trace_in_futures_left; [|eassumption].
+    apply Htr.
+  - unfold can_produce.
+    replace (Some m) with (output item) by assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:175]: Using `rewrite` here would be as confusing as using `assumption`, but much shorter.

```suggestion
    rewrite <- Houtput.
```

File: theories/VLSM/Core/MessageDependencies.v [hunk 18]
```diff
@@ -63,4 +66,432 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+  apply valid_state_has_trace in Hs as [is [tr Htr]].
+  specialize (Hreceived _ _ Htr).
+  apply Exists_exists in Hreceived as [item [Hitem Hinput]].
+  apply elem_of_list_split in Hitem as [pre [suf Heqtr]].
+  eapply in_futures_preserving_oracle_from_stepwise with (s1 := finite_trace_last is pre)
+  ; [apply has_been_observed_from_sent_received_stepwise_props|..].
+  - exists (item  :: suf).
+    eapply finite_valid_trace_from_to_app_split.
+    rewrite <- Heqtr.
+    apply Htr.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:204]: I don't like `apply Htr` here, because `Htr` is a conjunction and the `apply` implicit `destruct`s it. I'm not sure, however, if there's a cleanlier way to write it.

File: theories/VLSM/Core/MessageDependencies.v [hunk 19]
```diff
@@ -63,4 +66,432 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+then their free composition will also do so.
+*)
+Lemma composite_message_dependencies
+  : MessageDependencies message_dependencies (free_composite_vlsm IM).
+Proof.
+  split.
+  - intros m s Hproduce dm Hdm.
+    destruct Hproduce as [(is, iom) [(i, li) Ht]].
+    cut (@has_been_observed _ (IM i) (Hbo i) (s i) dm)
+    ; [intros [Hsent | Hreceived]; [left | right]; exists i; assumption|].
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:267]: This `cut` is a bit inconsistent in style with the previous `cut`s. Also, I think I have already seen this proof `intros [Hsent | Hreceived]; [left | right]; ...`. Maybe you should really consider making this a lemma?

File: theories/VLSM/Core/MessageDependencies.v [hunk 20]
```diff
@@ -63,4 +66,432 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+    eapply message_dependencies_are_necessary; [apply HMsgDep| |eassumption].
+    exists (is i, iom), li.
+    revert Ht.
+    apply
+      (VLSM_projection_input_valid_transition (preloaded_component_projection IM _))
+      with (lY := li).
+    unfold composite_project_label.
+    cbn.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:275]:
```suggestion
    unfold composite_project_label; cbn.
```

File: theories/VLSM/Core/MessageDependencies.v [hunk 21]
```diff
@@ -63,4 +66,432 @@ Definition message_dependencies_full_node_condition_prop : Prop :=
...
+  right.
+  pose proof (vlsm_is_pre_loaded_with_False X) as XeqXFalse.
+  apply (VLSM_eq_can_emit XeqXFalse) in Hemit.
+  apply (VLSM_eq_can_emit XeqXFalse).
+  cut (valid_message_prop (pre_loaded_vlsm X (fun _ => False)) dm).
+  {
+    clear -no_initial_messages_in_IM.
+    rewrite emitted_messages_are_valid_iff.
+    intros [[[i [[im Him] Heqm]] | Hpreloaded] | Hemit]
+    ; [elim (no_initial_messages_in_IM i im); assumption|contradiction| assumption].
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:307]: Again.

```suggestion
    intros [[[i [[im Him] _]] | Hpreloaded] | Hemit]; intuition.
    contradict Him. apply no_initial_messages_in_IM.
```

**Review by wkolowski — CHANGES_REQUESTED** [review]
Please investigate the typeclass stuff. I will review the rest later.

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 22]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+  (P Q : message -> Prop)
+  (PimpliesQ : forall m, P m -> Q m)
+  (PrePXj := pre_loaded_vlsm (IM j) P)
+  (PreQSubFree := pre_loaded_vlsm (free_composite_vlsm (sub_IM IM indices)) Q)
+  : VLSM_full_projection PrePXj PreQSubFree sub_element_label sub_element_state.
+Proof.
+  apply basic_VLSM_full_projection_preloaded_with; [assumption|..].
+  - intros l s om Hv.
+    split; [|exact I].
+    cbn.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1860]: I don't like this `exact` here, but sadly `trivial` doesn't work.

```suggestion
    split; [cbn |exact I].
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 23]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+    rewrite sub_element_state_eq with (H_j := Hj).
+    intro Ht.
+    replace (vtransition _ _ _) with (s', om').
+    f_equal.
+    extensionality sub_i.
+    destruct_dec_sig sub_i i Hi Heqsub_i.
+    subst.
+    destruct (decide (i = j)).
+    + subst.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1873]:
```suggestion
  - intros l s om s' om'; cbn.
    rewrite sub_element_state_eq with (H_j := Hj).
    intro Ht; replace (vtransition _ _ _) with (s', om'); f_equal.
    extensionality sub_i.
    destruct_dec_sig sub_i i Hi Heqsub_i; subst.
    destruct (decide (i = j)); subst.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 24]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+      rewrite sub_IM_state_update_eq, sub_element_state_eq.
+      reflexivity.
+    + rewrite sub_IM_state_update_neq, !sub_element_state_neq by congruence.
+      reflexivity.
+  - intros sj Hsj sub_i.
+    destruct_dec_sig sub_i i Hi Heqsub_i.
+    subst.
+    destruct (decide (i = j)).
+    + subst. rewrite sub_element_state_eq. assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1882]:
```suggestion
    destruct_dec_sig sub_i i Hi Heqsub_i; subst.
    destruct (decide (i = j)); subst.
    + rewrite sub_element_state_eq. assumption.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 25]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+Note that, in general, this is not trace-equivalent with the direclty obtained
+[projection_induced_vlsm] of the constrained composition to the corresponding
+component, as the intermediate induced projection might generate more
+[input_valid_transitions] to be considered as a basis for the next proejction.
+*)
+
+Definition sub_label_element_project
+  (l : composite_label (sub_IM IM indices))
+  : option (vlabel (IM j)) :=
+  match decide (j = ` (projT1 l)) with
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1921]: There's `projT1` and backtick (i.e. `proj1_sig`) on the same line, which means you desperately need more records there : )

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 26]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+Lemma sub_transition_element_project_None
+  : forall lX, sub_label_element_project lX = None ->
+    forall s om s' om', composite_transition (sub_IM IM indices) lX (s, om) = (s', om') ->
+    sub_state_element_project s' = sub_state_element_project s.
+Proof.
+  intros (sub_i,li) HlX s om s' om' HtX.
+  destruct_dec_sig sub_i i Hi Heqsub_i.
+  subst.
+  unfold sub_label_element_project in HlX.
+  cbn in HlX, HtX.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1939]: Put related atomic tactics together with `;`.

```suggestion
  destruct_dec_sig sub_i i Hi Heqsub_i; subst.
  unfold sub_label_element_project in HlX; cbn in HlX, HtX.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 27]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+  case_decide as Hij; [congruence|].
+  clear HlX.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1941]: I think this `clear` muddles more than helps.

```suggestion
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 28]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+  destruct (vtransition _ _ _) as (si', _om').
+  inversion HtX. subst. clear HtX.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1943]:
```suggestion
  inversion_clear HtX.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 29]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+Lemma sub_element_label_project
+  : forall lY, sub_label_element_project (sub_element_label lY) = Some lY.
+Proof.
+  intros lY.
+  unfold sub_element_label, sub_label_element_project.
+  simpl.
+  case_decide as Heqj; [|contradiction].
+  replace Heqj with (eq_refl (A := index) (x := j)); [reflexivity|].
+  apply Eqdep_dec.UIP_dec.
+  assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1958]:
```suggestion
  intros lY.
  unfold sub_element_label, sub_label_element_project; cbn.
  rewrite decide_left with (HP := eq_refl); cbn.
  reflexivity.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 30]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+Lemma sub_element_state_project
+  : forall sY, sub_state_element_project (sub_element_state sY) = sY.
+Proof.
+  intros sY.
+  unfold sub_element_state, sub_state_element_project.
+  simpl.
+  case_decide as Heqj; [|contradiction].
+  replace Heqj with (eq_refl (A := index) (x := j)); [reflexivity|].
+  apply Eqdep_dec.UIP_dec.
+  assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1970]: This proof and the above one look very similar, isn't there some possibility to factor something out?

```suggestion
  intros sY.
  unfold sub_element_state, sub_state_element_project; cbn.
  rewrite decide_left with (HP := eq_refl); cbn.
  reflexivity.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 31]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+Qed.
+
+Lemma sub_transition_element_project_Some
+  : forall lX1 lX2 lY, sub_label_element_project lX1 = Some lY -> sub_label_element_project lX2 = Some lY ->
+    forall sX1 sX2, sub_state_element_project sX1 = sub_state_element_project sX2 ->
+    forall iom sX1' oom1, composite_transition (sub_IM IM indices) lX1 (sX1, iom) = (sX1', oom1) ->
+    forall sX2' oom2, composite_transition (sub_IM IM indices) lX2 (sX2, iom) = (sX2', oom2) ->
+    sub_state_element_project sX1' = sub_state_element_project sX2' /\ oom1 = oom2.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1978]:
```suggestion
Lemma sub_transition_element_project_Some :
  forall lX1 lX2 lY,
    sub_label_element_project lX1 = Some lY ->
    sub_label_element_project lX2 = Some lY ->
  forall sX1 sX2,
    sub_state_element_project sX1 = sub_state_element_project sX2 ->
  forall iom sX1' oom1,
    composite_transition (sub_IM IM indices) lX1 (sX1, iom) = (sX1', oom1) ->
  forall sX2' oom2,
    composite_transition (sub_IM IM indices) lX2 (sX2, iom) = (sX2', oom2) ->
      sub_state_element_project sX1' = sub_state_element_project sX2' /\ oom1 = oom2.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 32]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+  unfold sub_IM.
+  cbn.
+  destruct (vtransition _ _ _) as (si', om').
+  intros sX' oom HtX.
+  inversion HtX. subst oom sX'. clear HtX.
+  intros sX' oom HtX.
+  inversion HtX. subst oom sX'. clear HtX.
+  split; [|reflexivity].
+  setoid_rewrite sub_IM_state_update_eq.
+  reflexivity.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:2012]:
```suggestion
  intros (sub_j1, lj1) (sub_j2, lj2) lj.
  destruct_dec_sig sub_j1 j1 Hj1 Heqsub_j1;
  destruct_dec_sig sub_j2 j2 Hj2 Heqsub_j2; subst.
  unfold sub_label_element_project; cbn.
  do 2 (case_decide; inversion 1); subst; cbn in *; subst.
  unfold sub_state_element_project.
  intros sX1 sX2 Hsjeq iom.
  replace (sX1 (dec_exist (sub_index_prop indices) j Hj1)) with (sX1 (dexist j Hj))
    by apply sub_IM_state_pi.
  replace (sX2 (dec_exist (sub_index_prop indices) j Hj2)) with (sX2 (dexist j Hj))
    by apply sub_IM_state_pi.
  rewrite <- Hsjeq.
  unfold sub_IM; cbn.
  destruct (vtransition _ _ _) as (si', om').
  do 2 inversion_clear 1.
  split; [|reflexivity].
  setoid_rewrite sub_IM_state_update_eq.
  reflexivity.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 33]
```diff
@@ -1752,6 +1800,246 @@ Qed.
...
+  - intros lX HlX s om s' om' [_ Ht].
+    apply sub_transition_element_project_None with lX om om'; [assumption|].
+    setoid_rewrite <- induced_sub_projection_transition_is_composite
+      with (constraint0 := constraint).
+    assumption.
+  - apply basic_weak_projection_transition_consistency_Some.
+    + intro. apply sub_element_label_project.
+    + intro. apply sub_element_state_project.
+    + intro.
+      setoid_rewrite induced_sub_projection_transition_is_composite.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:2037]:
```suggestion
    + intro; apply sub_element_label_project.
    + intro; apply sub_element_state_project.
    + intro; setoid_rewrite induced_sub_projection_transition_is_composite.
```

File: theories/VLSM/Core/VLSM.v [hunk 34]
```diff
@@ -1369,6 +1369,18 @@ traces.
...
+    Lemma can_produce_from_valid_trace si tr
+      (Htr: finite_valid_trace_from si tr)
+      : forall item, item ∈ tr ->
+        option_can_produce (destination item) (output item).
+    Proof.
+      intros item Hitem.
+      apply elem_of_list_split in Hitem as (l1 & l2 & Heq).
+      eexists _,_.
+      eapply input_valid_transition_to; [eassumption|].
+      simpl. eassumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:1381]:
```suggestion
      eapply input_valid_transition_to; cbn; eassumption.
```

File: theories/VLSM/Core/VLSM.v [hunk 35]
```diff
@@ -1377,17 +1389,14 @@ traces.
...
-      simpl in Houtput, Ht.
-      rewrite Houtput in Ht.
-      do 3 eexists;exact Ht.
+      apply can_emit_iff.
+      revert Hm.
+      setoid_rewrite Exists_exists.
+      intros [item [Hitem Houtput]].
+      exists (destination item).
+      unfold can_produce.
+      replace (Some m) with (output item) by assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:1398]:
```suggestion
      intros (item & Hitem & Houtput).
      exists (destination item).
      unfold can_produce.
      rewrite <- Houtput.
```

File: theories/VLSM/Core/VLSM.v [hunk 36]
```diff
@@ -2179,6 +2188,36 @@ This relation is often used in stating safety and liveness properties.*)
...
+      : forall item, item ∈ tr -> in_futures (destination item) s.
+    Proof.
+      intros item Hitem.
+      apply elem_of_list_split in Hitem as (pre & suf & Heqtr).
+      exists suf.
+      replace (destination item)
+         with (finite_trace_last is (pre ++ [item]))
+           by apply finite_trace_last_is_last.
+      eapply finite_valid_trace_from_to_app_split.
+      rewrite <- app_assoc. simpl. rewrite <- Heqtr.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2202]:
```suggestion
      erewrite <- finite_trace_last_is_last.
      eapply finite_valid_trace_from_to_app_split.
      rewrite <- app_assoc; cbn; rewrite <- Heqtr.
```

File: theories/VLSM/Core/VLSM.v [hunk 37]
```diff
@@ -2179,6 +2188,36 @@ This relation is often used in stating safety and liveness properties.*)
...
+      : forall item, item ∈ tr -> in_futures is (destination item).
+    Proof.
+      intros item Hitem.
+      apply elem_of_list_split in Hitem as (pre & suf & Heqtr).
+      exists (pre ++ [item]).
+      replace (destination item)
+         with (finite_trace_last is (pre ++ [item]))
+           by apply finite_trace_last_is_last.
+      eapply finite_valid_trace_from_to_app_split.
+      rewrite <- app_assoc. simpl. rewrite <- Heqtr.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2217]:
```suggestion
      erewrite <- finite_trace_last_is_last.
      eapply finite_valid_trace_from_to_app_split.
      rewrite <- app_assoc; cbn; rewrite <- Heqtr.
```

File: theories/VLSM/Core/VLSM.v [hunk 38]
```diff
@@ -2769,6 +2808,45 @@ Byzantine fault tolerance analysis.
...
+      specialize (IHtr _ (conj Htr Hinit)).
+      spec IHtr.
+      { intros. apply Hobs.
+        apply trace_has_message_prefix. assumption.
+      }
+      apply proj1, finite_valid_trace_from_to_forget_last in IHtr.
+      apply finite_valid_trace_from_add_last; [|assumption].
+      inversion Hx. subst f tl s'.
+      apply (extend_right_finite_trace_from X)
+      ; [assumption|].
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2838]:
```suggestion
      apply (extend_right_finite_trace_from X); [assumption|].
```

File: theories/VLSM/Core/VLSM.v [hunk 39]
```diff
@@ -2769,6 +2808,45 @@ Byzantine fault tolerance analysis.
...
+      destruct Ht as [[_ [_ Hv]] Ht].
+      apply finite_valid_trace_last_pstate in IHtr as Hplst.
+      repeat split; try assumption.
+      destruct iom as [m|]; [|apply option_valid_message_None].
+      apply option_valid_message_Some.
+      apply Hobs.
+      apply Exists_app. right.
+      apply Exists_cons. left.
+      subst. reflexivity.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2847]:
```suggestion
      repeat split. 1, 3-4: assumption.
      destruct iom as [m|]; [|apply option_valid_message_None].
      apply option_valid_message_Some, Hobs.
      red. rewrite Exists_app, Exists_cons.
      subst; cbn; firstorder.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 40]
```diff
@@ -1032,6 +1031,17 @@ Proof.
   reflexivity.
 Qed.
 
+Lemma pre_VLSM_full_projection_finite_trace_last_output
+  : forall trX,
+    finite_trace_last_output trX = finite_trace_last_output (pre_VLSM_full_projection_finite_trace_project trX).
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:1036]:
```suggestion
Lemma pre_VLSM_full_projection_finite_trace_last_output :
  forall trX,
    finite_trace_last_output trX
      =
    finite_trace_last_output (pre_VLSM_full_projection_finite_trace_project trX).
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 41]
```diff
@@ -1032,6 +1031,17 @@ Proof.
...
+Proof.
+  intros.
+  destruct_list_last trX trX' lst HtrX
+  ; [reflexivity|].
+  setoid_rewrite map_app. simpl. rewrite !finite_trace_last_output_is_last.
+  reflexivity.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:1042]:
```suggestion
  intros trX.
  destruct_list_last trX trX' lst HtrX; [reflexivity|].
  setoid_rewrite map_app; simpl; rewrite !finite_trace_last_output_is_last.
  reflexivity.
```

File: theories/VLSM/Core/Equivocation.v [hunk 42]
```diff
@@ -1239,6 +1239,30 @@ Proof.
...
+Lemma preloaded_has_been_sent_stepwise_props
+      [message : Type]
+      [vlsm: VLSM message]
+      (Hhbs: HasBeenSentCapability vlsm)
+      (seed : message -> Prop)
+      (X := pre_loaded_vlsm vlsm seed):
+  has_been_sent_stepwise_props (vlsm := X) (has_been_sent vlsm).
+Proof.
+  destruct (has_been_sent_stepwise_from_trace Hhbs) as [Hinit Hupdate].
+  split; auto.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation.v:1251]: I'm glad you're moving towards this conclusion :-)

File: theories/VLSM/Core/Equivocation.v [hunk 43]
```diff
@@ -1583,6 +1631,45 @@ Proof.
...
+    {Hhbs: HasBeenSentCapability X}
+    {Hhbr: HasBeenReceivedCapability X}
+    (Hhbo: HasBeenObservedCapability X := HasBeenObservedCapability_from_sent_received X)
+    (s : state)
+    (Hs : valid_state_prop X s)
+    (m : message)
+    (Hobserved : has_been_observed X s m) :
+    valid_message_prop X m.
+Proof.
+  destruct Hobserved as [Hsent | Hreceived].
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation.v:1668]: I think that here it's fine, probably, since the following proof is very short; however, when a long proof follows, I usually like to have my hypotheses named properly, as they are easier to locate; also naming them does no harm and it can be considered as some sort of documentation.

File: theories/VLSM/Core/Equivocation.v [hunk 44]
```diff
@@ -1942,29 +2057,46 @@ Section Composite.
...
-      red. eexists _, _, _.
-      apply (VLSM_incl_input_valid_transition (constraint_preloaded_free_incl IM _)) in Ht.
-      apply pre_loaded_with_all_messages_projection_input_valid_transition_eq with (j := i) in Ht; [|reflexivity].
-      exact Ht.
+    intros m Hm.
+    cut (exists v, sender m = Some v /\
+                   can_emit (pre_loaded_with_all_messages_vlsm (IM (A v))) m).
+    - intros (v & Hsender & _). congruence.
+    - revert m Hm.
+      apply composite_no_initial_valid_messages_emitted_by_sender; assumption.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation.v:2099]: I don't mind trying to avoid revert, but (1) why? and (2) sometimes using revert helps the application figure out context faster.
In general, it seems to me that `eapply` is slower and might shelve goals, so I'd like to know why do we prefer it. Maybe this is something which could be discussed in the coding conventions, too.

File: theories/VLSM/Core/MessageDependencies.v (hunk 14 above)
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v:59]: I know that it's more concise, and I tried to implement that usage pattern before, but I'm usually finding that there aren't sufficient lemmas for Forall and I (too often) need to use Forall_forall to turn it into the form above.  Nevetheless, I'll give your suggestion a try.

File: theories/VLSM/Core/MessageDependencies.v (hunk 18 above)
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v:204]: But we apply lemmas whose conclusions are conjunctions all of the time (after all, `<->` is itself a conjunction). The alternative would be to destruct Htr, or to apply a projection to it first, but I'm not sure that would improve readability.

File: theories/VLSM/Core/Equivocation.v (hunk 44 above)
[the remark this answers is not in the document]
Comment (wkolowski) [reply theories/VLSM/Core/Equivocation.v]: @traiansf I have the feeling that, if you need to `revert` for `apply` to work, you have set up your theorem in a suboptimal way. The people who come after you and try to `apply` your theorem will find it hard to do.

File: theories/VLSM/Core/MessageDependencies.v (hunk 18 above)
Comment (wkolowski) [reply theories/VLSM/Core/MessageDependencies.v:203]: In my mind you are not supposed to `apply` lemmas that say `P <-> Q`, but to `rewrite` them. Anyway, I don't see how to improve it in this particular case.

File: theories/VLSM/Core/SubProjectionTraces.v (hunk 29 above)
Comment (wkolowski) [reply theories/VLSM/Core/SubProjectionTraces.v:1941]: @traiansf Any reason why you skipped this suggestion?

File: theories/VLSM/Core/Equivocation.v (hunk 11 above)
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation.v:1330]: I would argue that in this particular context I've used `[]` to maintain local consistency: both the lemmas above and those below are using `[]` (I think their original author was Brandon).  Nevetheless, I will change the new lemmas I added to use `{}`.

File: theories/VLSM/Core/SubProjectionTraces.v (hunk 29 above)
Comment (traiansf) [reply theories/VLSM/Core/SubProjectionTraces.v:1941]: I sometimes want to manually perform the suggestions to understand them better.

**Comment by traiansf** [comment]
@wkolowski Since you've blocked my PR until resolving class inference for HasBeen stuff, I obliged, although I was thinking this is a task more suitable for proof engineering experts like yourself and Karl. Please check the results in https://github.com/runtimeverification/vlsm/pull/6/commits/99d0b726729c5c3fea672b459f2343d4c3daec26

I think there are still some suggestions you left I haven't looked at, but I'll do them while you look over this bigger change.

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 45]
```diff
@@ -488,32 +472,33 @@ Lemma pre_loaded_fixed_non_byzantine_vlsm_lift
...
       (lift_sub_state fixed_byzantine_IM non_byzantine).
 Proof.
-  apply basic_VLSM_full_projection; intro; intros.
-  - apply pre_loaded_fixed_non_byzantine_vlsm_lift_valid; assumption.
-  - apply lift_sub_transition. apply H.
-  - apply (lift_sub_state_initial fixed_byzantine_IM); assumption.
-  - apply (pre_loaded_fixed_non_byzantine_vlsm_lift_initial_message l s m); assumption.
+  apply basic_VLSM_full_projection.
+  - intro; intros; apply pre_loaded_fixed_non_byzantine_vlsm_lift_valid; assumption.
+  - intros ls s om s' om' [_ Ht]. apply lift_sub_transition. assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:477]:
```suggestion
  - intro; intros; apply pre_loaded_fixed_non_byzantine_vlsm_lift_valid; assumption.
  - intro; intros * []; apply lift_sub_transition; assumption.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 46]
```diff
@@ -488,32 +472,33 @@ Lemma pre_loaded_fixed_non_byzantine_vlsm_lift
...
+    apply initial_message_is_valid.
     apply (pre_loaded_fixed_non_byzantine_vlsm_lift_initial_message l s m).
-    + assumption.
-    + apply proj1 in Hv. revert Hv.
-      apply (VLSM_full_projection_valid_state pre_loaded_fixed_non_byzantine_vlsm_lift).
-    + assumption.
-  - exists (lift_sub_label fixed_byzantine_IM non_byzantine l).
+    1,3: assumption.
+    apply (VLSM_full_projection_valid_state pre_loaded_fixed_non_byzantine_vlsm_lift).
+    exact (proj1 Hv).
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:492]:
```suggestion
    destruct Hv; assumption.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 47]
```diff
@@ -488,32 +472,33 @@ Lemma pre_loaded_fixed_non_byzantine_vlsm_lift
...
     exists (lift_sub_state fixed_byzantine_IM non_byzantine s).
     split; [apply composite_label_sub_projection_option_lift|].
     split; [apply composite_state_sub_projection_lift|].
     revert Hv.
     apply (VLSM_full_projection_input_valid pre_loaded_fixed_non_byzantine_vlsm_lift).
-  - apply proj2 in H.
-    revert H.
+  - intros l s om s' om' [_ Ht].
+    revert Ht.
     apply induced_sub_projection_transition_preservation.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:502]: Don't `revert` before `apply`ing if you can `apply` and then use an `assumption`.

```suggestion
    apply (VLSM_full_projection_input_valid pre_loaded_fixed_non_byzantine_vlsm_lift).
    assumption.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 48]
```diff
@@ -582,85 +565,66 @@ Lemma fixed_non_equivocating_incl_sub_non_equivocating
   : VLSM_incl FixedNonEquivocating
       (induced_sub_projection IM (set_diff (enum index) selection)
         (sub_IM_not_equivocating_constraint IM
-          (set_diff (enum index) selection) A sender
-          (sub_has_been_sent_capabilities IM
-            (set_diff (enum index) selection) Hbs))).
+          (set_diff (enum index) selection) A sender)).
 Proof.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:569]: Again, can't post a suggestion.

```coq
  apply induced_sub_projection_constraint_subsumption_incl.
  intros l (s, om) Hv.
  apply (fixed_strong_equivocation_subsumption IM selection)
    in Hv as Hstrong_v.
  destruct Hv as (Hs & Hom & Hv & Hc).
  destruct om; [| trivial].
  cbn; destruct (sender m) as [v |] eqn: Hsender; [| exact I]; cbn.
  case_decide as HAv; [| trivial].
  unfold sub_IM; cbn.
  apply (VLSM_incl_valid_state (constraint_free_incl IM (fixed_equivocation_constraint IM selection))) in Hs.
  apply (VLSM_incl_valid_state (vlsm_incl_pre_loaded_with_all_messages_vlsm (free_composite_vlsm IM))) in Hs.
  assert (Hpre_si : forall i, valid_state_prop (pre_loaded_with_all_messages_vlsm (IM i)) (s i)).
  {
    intro i.
    revert Hs.
    apply valid_state_project_preloaded_to_preloaded.
  }
  apply set_diff_elim2 in HAv.
  destruct Hstrong_v as [(i & Hi & Hsent) | Hemitted].
  - apply valid_state_has_trace in Hs as (is & tr & Htr).
    eapply has_been_sent_iff_by_sender; [| | | exists i]; eassumption.
  - contradict HAv. eapply sub_can_emit_sender; eassumption.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 49]
```diff
@@ -582,85 +565,66 @@ Lemma fixed_non_equivocating_incl_sub_non_equivocating
...
     exists i; assumption.
-  - elim H.
-    apply (sub_can_emit_sender IM selection A sender Hsender_safety _ _ _ Hsender Hemitted).
+  - contradict HAv.
+    eapply sub_can_emit_sender; eassumption.
 Qed.
 
 Lemma fixed_non_equivocating_incl_fixed_non_byzantine
   : VLSM_incl FixedNonEquivocating PreNonByzantine.
 Proof.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:599]: Again, can't post a suggestion.

```coq
  apply basic_VLSM_incl.
  - intros s (sX & <- & Hinitial) sub_i.
    apply Hinitial.
  - intro; intros.
    apply (VLSM_incl_input_valid fixed_non_equivocating_incl_sub_non_equivocating)
      in Hv as (Hs & _ & Hv).
    apply sub_IM_no_equivocation_preservation in Hv as Hnoeqv.
    2-4: assumption.
    destruct Hnoeqv as [Hsent | Hseeded].
    + eapply preloaded_composite_sent_valid; eassumption.
    + apply initial_message_is_valid.
      right; split; [assumption|].
      eapply induced_sub_projection_valid_projection. apply Hv.
  - intros l s om Hv.
    apply (VLSM_incl_input_valid fixed_non_equivocating_incl_sub_non_equivocating)
       in Hv as (_ & _ & Hv).
    split.
    + revert Hv.
      apply induced_sub_projection_valid_preservation.
    + split; [| exact I].
      apply sub_IM_no_equivocation_preservation in Hv as Hnoequiv.
      2-4: assumption.
      destruct om as [m |]; [| trivial].
      destruct Hnoequiv as [Hsent|Hseeded]; [left; assumption | right].
      split; [assumption|].
      eapply induced_sub_projection_valid_projection. apply Hv.
  - intros l s om s' om' [_ Ht].
    revert Ht.
    apply induced_sub_projection_transition_preservation.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 50]
```diff
@@ -750,13 +712,13 @@ Lemma preloaded_non_byzantine_vlsm_lift
...
+  apply basic_VLSM_strong_full_projection. 
+  - intros l s om [Hv _].
+    split; [|exact I].
     apply lift_sub_valid; assumption.
-  - apply lift_sub_transition; assumption.
-  - apply (lift_sub_state_initial IM); assumption.
-  - exact I.
+  - intro; intros. apply lift_sub_transition; assumption.
+  - intro; intros. apply (lift_sub_state_initial IM); assumption.
+  - intro; intros. cbv; trivial.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:721]: As I wrote previously, I don't like `intro; intros`, but not sure how to improve on it.

```suggestion
  - intro; intros; apply lift_sub_transition; assumption.
  - intro; intros; apply (lift_sub_state_initial IM); assumption.
  - intro; intros; cbn; trivial.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 51]
```diff
@@ -776,34 +738,37 @@ Lemma fixed_non_byzantine_vlsm_lift_from_initial
...
-  apply basic_VLSM_full_projection; intro; intros.
-  - apply fixed_non_byzantine_vlsm_lift_valid; assumption.
-  - apply lift_sub_transition. apply H.
-  - apply (lift_sub_state_initial IM); assumption.
-  - apply (Hfixed_non_byzantine_vlsm_lift_initial_message l s m); assumption.
+  apply basic_VLSM_full_projection.
+  - intro; intros; apply fixed_non_byzantine_vlsm_lift_valid; assumption.
+  - intros l s om s' om' [_ Ht]. apply lift_sub_transition. assumption.
+  - intro; intros; apply (lift_sub_state_initial IM); assumption.
+  - intros l s om. apply Hfixed_non_byzantine_vlsm_lift_initial_message.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:745]:
```suggestion
  - intro; intros; apply fixed_non_byzantine_vlsm_lift_valid; assumption.
  - intro; intros * []; apply lift_sub_transition; assumption.
  - intro; intros; apply (lift_sub_state_initial IM); assumption.
  - intros; apply Hfixed_non_byzantine_vlsm_lift_initial_message.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 52]
```diff
@@ -776,34 +738,37 @@ Lemma fixed_non_byzantine_vlsm_lift_from_initial
...
     split; [apply composite_state_sub_projection_lift_to|].
-    by apply (lift_sub_state_initial IM).
-  - apply initial_message_is_valid.
-    apply (Hfixed_non_byzantine_vlsm_lift_initial_message l s m).
-    + assumption.
-    + apply proj1 in Hv. revert Hv.
-      apply (VLSM_full_projection_valid_state fixed_non_byzantine_vlsm_lift_from_initial).
-    + assumption.
-  - exists (lift_sub_label IM (set_diff (enum index) selection) l).
+    apply (lift_sub_state_initial IM); assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:755]:
```coq
    split.
    + apply composite_state_sub_projection_lift_to.
    + apply (lift_sub_state_initial IM); assumption.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 53]
```diff
@@ -776,34 +738,37 @@ Lemma fixed_non_byzantine_vlsm_lift_from_initial
...
+  - intro; intros.
+    apply initial_message_is_valid.
+    eapply Hfixed_non_byzantine_vlsm_lift_initial_message. 1,3:eassumption.
+    apply proj1 in Hv.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:759]:
```suggestion
    eapply Hfixed_non_byzantine_vlsm_lift_initial_message.
    1, 3: eassumption.
    destruct Hv as [Hv _].
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 54]
```diff
@@ -776,34 +738,37 @@ Lemma fixed_non_byzantine_vlsm_lift_from_initial
...
     split; [apply composite_state_sub_projection_lift|].
     revert Hv.
-    apply (VLSM_full_projection_input_valid fixed_non_byzantine_vlsm_lift_from_initial).
-  - apply proj2 in H.
-    revert H.
+    apply VLSM_full_projection_input_valid.
+    apply fixed_non_byzantine_vlsm_lift_from_initial.
+  - intros l s om s' om' [_ Ht].
+    revert Ht.
     apply induced_sub_projection_transition_preservation.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:772]:
```suggestion
    apply induced_sub_projection_transition_preservation; assumption.
```

File: theories/VLSM/Core/ByzantineTraces/LimitedByzantineTraces.v [hunk 55]
```diff
@@ -179,11 +177,12 @@ Lemma limited_PreNonByzantine_vlsm_lift
       (lift_sub_label IM non_byzantine)
       (lift_sub_state IM non_byzantine).
 Proof.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/LimitedByzantineTraces.v:179]: Nice, I didn't know about `specialize ... as`.

```coq
  apply basic_VLSM_full_projection; intros ? *.
  - intros; apply limited_PreNonByzantine_lift_valid; assumption.
  - intros * []; apply lift_sub_transition; assumption.
  - intros; apply (lift_sub_state_initial IM); assumption.
  - intros Hv HsY [[sub_i [[im Him] Heqm]] | Hseeded].
    + cbn in Heqm; subst.
      destruct_dec_sig sub_i i Hi Heqsub_i; subst.
      unfold sub_IM in Him; cbn in Him; clear -Him.
      apply initial_message_is_valid.
      exists i, (exist _ m Him). reflexivity.
    + destruct Hseeded as (Hsigned & i & Hi & li & si & Hpre_valid).
      apply set_diff_elim2 in Hi.
      specialize (Hvalidator i _ _ Hpre_valid) as (_ & _ & _ & Hmsg & _).
      assumption.
```

**Review by wkolowski — COMMENTED** [review]
So far looks pretty good. I will review the rest and approve on Monday (if I don't die from covid by then).

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v (hunk 47 above)
Comment (traiansf) [reply theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:502]: I'm trying to understand why your proposal would be better. Could you please provide an argument for that?
In my view the revert there is helpful as it provides more context for the apply, which can then be simpler.

Comment (palmskog) [reply theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:490]: `revert` has a bit of an unfortunate name (it sounds regressive). But in reality, moving terms between the context and the goal is done all the time in advanced projects like MathComp. However, regular Ltac don't have good facilities for streamlining this. In SSReflect, one would do:
```coq
move=> l s om s' om' [_ Ht].
apply/induced_sub_projection_transition_preservation: Ht.
```
So bottom line, I think Traian should keep this as-is.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 56]
```diff
@@ -2693,12 +2704,35 @@ Context
...
+  (P Q : message -> Prop)
+  (PimpliesQorValid : forall m : message, P m -> Q m \/ valid_message_prop (pre_loaded_vlsm X Q) m)
+  : VLSM_incl (pre_loaded_vlsm X P) (pre_loaded_vlsm X Q).
+Proof.
+  apply basic_VLSM_incl.
+  1, 3-4: cbv; intuition.
+  intros _ _ m _ _ [Him | Hp].
+  - apply initial_message_is_valid. left. assumption.
+  - apply PimpliesQorValid in Hp as [Hq | Hvalid]; [|assumption].
+    apply initial_message_is_valid. right. assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:2717]:
```suggestion
  - apply initial_message_is_valid; left; assumption.
  - apply PimpliesQorValid in Hp as [Hq | Hvalid]; [|assumption].
    apply initial_message_is_valid; right; assumption.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 57]
```diff
@@ -2761,6 +2795,16 @@ Proof.
...
 Qed.
 
+Lemma vlsm_incl_pre_loaded
+  (P : message -> Prop)
+  : VLSM_incl X (pre_loaded_vlsm X P).
+Proof.
+  eapply VLSM_incl_trans.
+  - eapply VLSM_eq_proj1, vlsm_is_pre_loaded_with_False.
+  - apply pre_loaded_vlsm_incl.
+    intuition.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:2805]:
```suggestion
  - apply pre_loaded_vlsm_incl; contradiction.
```

File: theories/VLSM/Core/VLSM.v [hunk 58]
```diff
@@ -1377,17 +1388,14 @@ traces.
...
-      rewrite Houtput in Ht.
-      do 3 eexists;exact Ht.
+      apply can_emit_iff.
+      revert Hm.
+      setoid_rewrite Exists_exists.
+      intros (item & Hitem & Houtput).
+      exists (destination item).
+      unfold can_produce.
+      rewrite <- Houtput.
+      eapply can_produce_from_valid_trace; [apply Htr|assumption].
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:1398]:
```suggestion
      apply can_emit_iff.
      setoid_rewrite Exists_exists in Hm.
      destruct Hm as (item & Hitem & Houtput).
      exists (destination item).
      unfold can_produce; rewrite <- Houtput.
      eapply can_produce_from_valid_trace; [apply Htr | assumption].
```

File: theories/VLSM/Core/VLSM.v [hunk 59]
```diff
@@ -2769,6 +2803,42 @@ Byzantine fault tolerance analysis.
...
+      apply finite_valid_trace_from_add_last; [|assumption].
+      inversion Hx. subst f tl s'.
+      apply (extend_right_finite_trace_from X); [assumption|].
+      destruct Ht as [[_ [_ Hv]] Ht].
+      apply finite_valid_trace_last_pstate in IHtr as Hplst.
+      repeat split. 1, 3-4: assumption.
+      destruct iom as [m|]; [|apply option_valid_message_None].
+      apply option_valid_message_Some, Hobs.
+      red. rewrite Exists_app, Exists_cons.
+      subst; cbn; firstorder.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2839]: And another slightly forward proof. Can you try to get rid of the `apply ... in`?
```suggestion
    revert s Htr Hobs.
    induction tr using rev_ind; intros; split
    ; [|apply Htr | | apply Htr]
    ; destruct Htr as [Htr Hinit].
    - inversion Htr; subst.
      apply (finite_valid_trace_from_to_empty X).
      apply initial_state_is_valid.
      assumption.
    - apply finite_valid_trace_from_to_last in Htr as Hlst.
      apply finite_valid_trace_from_to_app_split in Htr.
      destruct Htr as [Htr Hx].
      specialize (IHtr _ (conj Htr Hinit)).
      spec IHtr.
      {
        intros. apply Hobs.
        apply trace_has_message_prefix. assumption.
      }
      destruct IHtr as [IHtr _];
      apply finite_valid_trace_from_to_forget_last in IHtr.
      apply finite_valid_trace_from_add_last; [| assumption].
      inversion Hx; subst f tl s'.
      apply (extend_right_finite_trace_from X); [assumption |].
      destruct Ht as [[_ [_ Hv]] Ht].
      apply finite_valid_trace_last_pstate in IHtr as Hplst.
      repeat split. 1, 3-4: assumption.
      destruct iom as [m |]; [| apply option_valid_message_None].
      apply option_valid_message_Some, Hobs.
      red; rewrite Exists_app, Exists_cons.
      subst; cbn; intuition.
```

File: theories/VLSM/Core/Equivocators/MessageProperties.v [hunk 60]
```diff
@@ -484,26 +487,30 @@ Global Instance equivocator_has_been_sent_dec
 Lemma equivocator_has_been_sent_stepwise_props
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/MessageProperties.v:487]: This proof is very similar to `equivocator_has_been_received_stepwise_props`, maybe there's a way to factor the commonality out?

**Review by wkolowski — COMMENTED** [review]
There are too many forward proofs. I will continue reviewing tomorrow.

**Comment by traiansf** [comment]
> There are too many forward proofs. I will continue reviewing tomorrow.

While I agree that there might be a lot of forward proofs, I would say this is outside the scope of this PR and I don't think that the mere fact that a refactoring touched a proof should automatically trigger a rewrite of that proof.  If you want, I don't mind you opening a PR where you take all the proofs in the VLSM repo and rewrite then to your satisfaction.

File: theories/VLSM/Core/Equivocation/NoEquivocation.v [hunk 61]
```diff
@@ -89,19 +89,18 @@ any message that tests as [has_been_observed] in a state also tests as
...
     - (* by [no_equivocations], the incoming message [im] was previously sent *)
-      rewrite H in Hv.
       specialize (Henforced Hv).
       destruct Henforced; [|contradiction].
       right. assumption.
-    - left. assumption.
-    - specialize (Hprev H).
+    - left. reflexivity.
+    - specialize (Hprev Hobs).
       right. assumption.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation/NoEquivocation.v:104]: I probably could, but I would prefer not to do it as part of this PR.

File: theories/VLSM/Core/Equivocation/NoEquivocation.v [hunk 62]
```diff
@@ -207,27 +206,30 @@ in the same state.
...
+    `{forall i, HasBeenReceivedCapability (IM i)}
     (X := composite_vlsm IM constraint)
     (Hsubsumed: preloaded_constraint_subsumption IM constraint composite_no_equivocations)
     .
 
   Definition composite_observed_were_sent (s: state) : Prop :=
-    forall msg, composite_has_been_observed IM Hbo s msg -> composite_has_been_sent IM Hbs s msg.
+    forall msg, composite_has_been_observed IM s msg -> composite_has_been_sent IM s msg.
 
   Lemma composite_observed_were_sent_invariant s:
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation/NoEquivocation.v:217]: yes, I agree (both that this is extreme, and that you are right :-D ), but note that it's not part of the change of this PR.
Also, some would argue that in regular writing one doesn't usually put spaces before most punctuation signs :-) so I guess this is how this came to be (in fact there is another instance of that in the definition above.

[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Equivocation/NoEquivocation.v:216]: I was actually planning to implement the change you suggested, but then I realized that there are a  lot more lemmas written in a similar fashion, so I decided to just add a TODO to make notation uniform across the file,

File: theories/VLSM/Core/Equivocation/NoEquivocation.v [hunk 63]
```diff
@@ -207,27 +206,30 @@ in the same state.
...
+    specialize (observed_were_sent_invariant message X) as Hinv.
+    spec Hinv.
+    {
+      intros l s0 om Hv.
+      apply Hsubsumed in Hv.
+      assumption.
+    }
+    spec Hinv s Hs.
+    intros Hobs.
+    apply Hinv.
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/Equivocation/NoEquivocation.v:231]: I disagree that there is some inherent superiority to backward proofs, such as that backward proofs are more maintainable. Regular mathematicians argue both forward and backward, as was highlighted in the odd-order theorem proof in Coq that followed the paper proof. They ended up using both `rewrite` and `have` in SSReflect in decent proportions.

We have pretty good evidence that extracting out *standalone lemmas* is a good thing for maintainability, though. But this requires quite a lot of extra effort, so not always worth it.

File: theories/VLSM/Core/Equivocation.v [hunk 64]
```diff
@@ -995,6 +998,25 @@ Proof.
...
+      [message] [vlsm: VLSM message]
+      [selector]
+      [oracle : state_message_oracle vlsm]
+      (Horacle: oracle_stepwise_props selector oracle)
+      selector'
+      (Heqv :
+        forall s item,
+          input_valid_transition_item (pre_loaded_with_all_messages_vlsm vlsm) s item ->
+          forall m, selector m item <-> selector' m item)
+      : oracle_stepwise_props selector' oracle.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1011]: I think that 2 spaces of indentation is enough here and in other places too.

```suggestion
  [message] [vlsm : VLSM message]
  [selector]
  [oracle : state_message_oracle vlsm]
  (Horacle : oracle_stepwise_props selector oracle)
  selector'
  (Heqv :
    forall s item,
      input_valid_transition_item (pre_loaded_with_all_messages_vlsm vlsm) s item ->
      forall m, selector m item <-> selector' m item)
  : oracle_stepwise_props selector' oracle.
```

File: theories/VLSM/Core/Equivocation.v [hunk 65]
```diff
@@ -1440,22 +1514,22 @@ Section sent_received_observed_capabilities.
...
   : has_been_observed vlsm s m <-> has_been_received vlsm s m \/ has_been_sent vlsm s m.
 Proof.
   specialize
     (prove_all_have_message_from_stepwise message vlsm  item_sends_or_receives
-    (has_been_observed vlsm) has_been_observed_stepwise_props _ Hs m) as Hall.
-  split; [intro H | intros [H | H]].
-  - apply proj1 in Hall. specialize (Hall H).
+    (has_been_observed vlsm) (has_been_observed_stepwise_props _) _ Hs m) as Hall.
+  split; [intro Hobs | intros [Hreceived | Hsent]].
+  - apply proj1 in Hall. specialize (Hall Hobs).
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1532]: I think `apply proj1` is a code smell and we should prefer `destruct` instead.

```suggestion
  - destruct Hall as [Hall _]. specialize (Hall Hobs).
```

File: theories/VLSM/Core/Equivocation.v [hunk 66]
```diff
@@ -1495,15 +1571,18 @@ Lemma has_been_observed_from_sent_received_stepwise_props
...
-    destruct H as [is [tr [Htr Hexists]]].
+  ; intros; split.
+  - intros Hobs start tr Htr.
+    destruct Hobs as [Hsent | Hreceived].
+    + apply proper_sent in Hsent; [|assumption].
+      apply Exists_or. right.
+      eapply Hsent; eassumption.
+    + apply proper_received in Hreceived; [|assumption].
+      apply Exists_or. left.
+      eapply Hreceived; eassumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1582]:
```coq
  apply stepwise_props_from_trace
  ; [apply has_been_observed_from_sent_received_dec|..]
  ; intros; split.
  - intros [Hsent | Hreceived] start tr Htr.
    + apply proper_sent in Hsent; [|assumption].
      apply Exists_or; right.
      eapply Hsent; eassumption.
    + apply proper_received in Hreceived; [|assumption].
      apply Exists_or; left.
      eapply Hreceived; eassumption.
```

File: theories/VLSM/Core/Equivocation.v [hunk 67]
```diff
@@ -1495,15 +1571,18 @@ Lemma has_been_observed_from_sent_received_stepwise_props
...
+  - intros Hobs.
+    apply consistency_from_valid_state_proj2 in Hobs; [|assumption].
+    destruct Hobs as (is & tr & Htr & Hexists).
     apply Exists_or_inv in Hexists.
     destruct Hexists as [Hsent | Hreceived].
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1587]: Sorry for posting suggestions to lines you didn't touch, maybe you're right and my reviewing style is too broad.

```suggestion
    apply Exists_or_inv in Hexists as [Hsent | Hreceived].
```

File: theories/VLSM/Core/Equivocation.v [hunk 68]
```diff
@@ -1635,28 +1755,26 @@ Section Composite.
       Proof.
         split.
         - (* initial states not claim *)
-          intros s Hs m [i H].
-          revert H.
+          intros s Hs m [i Horacle].
+          revert Horacle.
           fold (~ oracles i (s i) m).
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1760]:
```suggestion
```

File: theories/VLSM/Core/Equivocation.v [hunk 69]
```diff
@@ -1942,29 +2025,45 @@ Section Composite.
...
+      with (j := i) in Ht; [|reflexivity].
+    specialize (can_emit_signed i m).
+    spec can_emit_signed; [eexists _,_,_; eassumption|].
+    unfold channel_authenticated_message in can_emit_signed.
+    destruct (sender m) as [v|] eqn: Hsender; [|inversion can_emit_signed].
+    apply Some_inj in can_emit_signed.
+    exists v.
+    split; [reflexivity|].
+    subst. cbn in Ht.
+  unfold can_emit; eauto.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:2052]:
```suggestion
    subst; cbn in Ht; unfold can_emit; eauto.
```

**Review by wkolowski — COMMENTED** [review]
I feel that when I'm ill, my suggestion fall in quality significantly...

File: theories/VLSM/Core/Equivocation.v (hunk 64 above)
Comment (traiansf) [reply theories/VLSM/Core/Equivocation.v:1011]: I also agree, in principle, but this was again done to suit the indentation in the surrounding context.
I'll add another TODO, and add a proof engineering task in the issues list.

File: theories/VLSM/Core/Equivocation/TraceWiseEquivocation.v [hunk 70]
```diff
@@ -299,34 +294,27 @@ Proof.
...
-  {is_equivocating_tracewise_no_has_been_sent_dec : RelDecision is_equivocating_tracewise_no_has_been_sent}
-  {validator_listing : list validator}
-  (finite_validator : Listing validator_listing)
+  `{ReachableThreshold validator}
+  `{RelDecision _ _ is_equivocating_tracewise_no_has_been_sent}
+  `{finite.Finite validator}
   .
 
-Local Program Instance equivocation_dec_tracewise
+Local Instance equivocation_dec_tracewise
```
[the remark this answers is not in the document]
Comment (bmmoore) [reply theories/VLSM/Core/Equivocation/TraceWiseEquivocation.v]: I agree that ltac in terms is *much* worse than `Program`, but I also prefer to avoid Program unless we're getting good use out of it's unique features, because it's not obvious what missing parts in the term each `Next Obligation` corresponds to. In this case I think the ltac-in-terms could easily be replaced with some `fun` that has an explicit application of `NoDup_enum`.

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 71]
```diff
@@ -1171,13 +1121,13 @@ Lemma induced_sub_projection_friendliness
     (lift_sub_state IM equivocators))
   : projection_friendly_prop (induced_sub_projection_is_projection IM equivocators constraint).
 Proof.
-  eapply (basic_projection_induces_friendliness (composite_vlsm IM constraint)).
+  eapply basic_projection_induces_friendliness.
   assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1125]:
```suggestion
  eapply basic_projection_induces_friendliness; assumption.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 72]
```diff
@@ -1171,13 +1121,13 @@ Lemma induced_sub_projection_friendliness
...
   Unshelve.
-  - apply induced_sub_projection_transition_consistency_None.
-  - apply composite_label_sub_projection_option_lift.
-  - apply composite_state_sub_projection_lift.
-  - apply induced_sub_projection_transition_consistency_Some.
+    - apply induced_sub_projection_transition_consistency_None.
+    - apply composite_label_sub_projection_option_lift.
+    - apply composite_state_sub_projection_lift.
+    - apply induced_sub_projection_transition_consistency_Some.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1130]: I see no point in adding additional indentation here. You should treat `Unshelve` like an ordinary subgoal-producing tactic, even though it is a command.

```suggestion
  - apply induced_sub_projection_transition_consistency_None.
  - apply composite_label_sub_projection_option_lift.
  - apply composite_state_sub_projection_lift.
  - apply induced_sub_projection_transition_consistency_Some.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 73]
```diff
@@ -1752,6 +1696,216 @@ Qed.
...
+    split; [cbn |exact I].
+    rewrite sub_element_state_eq with (H_j := Hj).
+    assumption.
+  - intros l s om s' om'; cbn.
+    rewrite sub_element_state_eq with (H_j := Hj).
+    intro Ht; replace (vtransition _ _ _) with (s', om'); f_equal.
+    extensionality sub_i.
+    destruct_dec_sig sub_i i Hi Heqsub_i; subst.
+    destruct (decide (i = j)); subst.
+      rewrite sub_IM_state_update_eq, sub_element_state_eq.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1761]: A bullet is missing here.

```suggestion
    + rewrite sub_IM_state_update_eq, sub_element_state_eq.
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 74]
```diff
@@ -1752,6 +1696,216 @@ Qed.
...
+      reflexivity.
+    + rewrite sub_IM_state_update_neq, !sub_element_state_neq by congruence.
+      reflexivity.
+  - intros sj Hsj sub_i.
+    destruct_dec_sig sub_i i Hi Heqsub_i; subst.
+    destruct (decide (i = j)); subst.
+    + rewrite sub_element_state_eq. assumption.
+    + rewrite sub_element_state_neq by congruence.
+      destruct (vs0 (IM i)).
+      assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:1771]:
```suggestion
    + rewrite sub_element_state_eq; assumption.
    + rewrite sub_element_state_neq by congruence.
      destruct (vs0 (IM i)); assumption.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 75]
```diff
@@ -2693,12 +2704,35 @@ Context
...
+    apply initial_message_is_valid; right; assumption.
+Qed.
+
 Lemma pre_loaded_vlsm_incl
   (P Q : message -> Prop)
   (PimpliesQ : forall m : message, P m -> Q m)
   : VLSM_incl (pre_loaded_vlsm X P) (pre_loaded_vlsm X Q).
 Proof.
-  apply basic_VLSM_incl_preloaded_with; cbv; intuition.
+  apply pre_loaded_vlsm_incl_relaxed. intuition.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:2725]:
```suggestion
  apply pre_loaded_vlsm_incl_relaxed; intuition.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 76]
```diff
@@ -2693,12 +2704,35 @@ Context
...
+Qed.
+
+Lemma pre_loaded_vlsm_with_valid_eq
+  (P Q : message -> Prop)
+  (QimpliesValid : forall m, Q m -> valid_message_prop (pre_loaded_vlsm X P) m)
+  : VLSM_eq (pre_loaded_vlsm X (fun m => P m \/ Q m)) (pre_loaded_vlsm X P).
+Proof.
+  apply VLSM_eq_incl_iff; split.
+  - apply pre_loaded_vlsm_incl_relaxed. intuition.
+  - cbv; apply pre_loaded_vlsm_incl. intuition.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:2735]:
```suggestion
  - apply pre_loaded_vlsm_incl_relaxed; intuition.
  - cbv; apply pre_loaded_vlsm_incl; intuition.
```

**Review by wkolowski — APPROVED** [review]
Looks good, I approve. But this doesn't mean that I don't have another 50 nitpicks : )
